US06734179B2
0.10 g (0.20 mMol) 4-{4-methoxy-2-[(2-methoxy-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester were dissolved in 2 ml 2.5 M HCl/MeOH and heated to reflux for 1.5 h. The reaction mixture was concentrated in vacuo and taken up in 3 ml isopropanol. The suspension formed was filtered and the material on the filter was washed with diethyl ether and dried in vacuo. One obtained 0.075 g (86%) 2-methoxy-N-(4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-isonicotinamide 1:2 hydrochloride as a yellow solid. F.p.: 305-310° C.

reactant | 4-{4-methoxy-2-[(2-methoxy-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester | 0.20 mMol, 0.10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C2=CC(=NC=C2)OC)OC | C25H30N4O5S
solvent | HCl MeOH | 2.5 M, 2 ml | Cl.CO
product | 2-methoxy-N-(4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-isonicotinamide | 0.075 g, 86% | COC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCNCC3)OC)C=CN1 | C20H22N4O3S
